US04544400
To iodobenzene diacetate (3.9 g, 12 mmol) in 100 ml of acetone is added at RT 2-nitro-5-(3,5-dichloro-2-pyridyloxy)aniline (3.0 g, 10 mmol), neat, in portions over 10 minutes. The reaction is stirred at RT overnight and is then stripped. Chloroform is added to the residue, and this mixture is filtered through celite. The filtrate is washed with water (2X) and with brine, dried over sodium sulfate and stripped to give 5-(3,5-dichloro-2-pyridyloxy)benzo-2,1,3-oxadiazole N-oxide. (D; X=H, Y=Cl, Z=Cl).

reactant | iodobenzene diacetate | 12 mmol, 3.9 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 2-nitro-5-(3,5-dichloro-2-pyridyloxy)aniline | 10 mmol, 3.0 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=NC=C(C=C1Cl)Cl | C11H7Cl2N3O3
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-(3,5-dichloro-2-pyridyloxy)benzo-2,1,3-oxadiazole N-oxide | ClC=1C(=NC=C(C1)Cl)OC1=CC=2C(=[N+](ON2)[O-])C=C1 | C11H5Cl2N3O3
